US04442126
(d) 2-Dipropylamino-7-formylamino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide
0.7 ml of acetic anhydride is added to 3 ml of 98% formic acid, kept at 0° C., and the whole is left for 15 minutes at 0° C. 2.2 g of 2-dipropylamino-7-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide are then added thereto and the mixture is then stirred for one hour at 0° C. After 50 ml of diethyl ether have been added and the solid has been filtered off, the latter is recrystallised from a 50/50 methanol/ethyl acetate mixture. This gives 1 g of the final product melting at 213° C. (with decomposition).

reactant | acetic anhydride | 0.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 3 ml | C(=O)O | CH2O2
reactant | 2-dipropylamino-7-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | 2.2 g | Br.C(CC)N(C1CC2=CC(=C(C=C2CC1)O)N)CCC
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-Dipropylamino-7-formylamino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.C(CC)N(C1CC2=CC(=C(C=C2CC1)O)NC=O)CCC | InChI=1S/C17H26N2O2.BrH/c1-3-7-19(8-4-2)15-6-5-13-11-17(21)16(18-12-20)10-14(13)9-15;/h10-12,15,21H,3-9H2,1-2H3,(H,18,20);1H
